data/oMe_Silver.jsonl
{"reaction_id": "NR-327_1-c1ccc(OC)cc1_2-c1ccc(Br)cc1","level": "medium","name": "Yamaguchi Esterification","reactants_smiles": ["C(=O)(O)c1ccc(OC)cc1","Oc1ccc(Br)cc1","O=C(Cl)c1c(Cl)cc(Cl)cc1Cl","CCN(CC)CC","CN(C)c1ccncc1"],"products_smiles": ["C(=O)(Oc1ccc(Br)cc1)c1ccc(OC)cc1"],"conditions": "1. Triethylamine, 2,4,6-Trichlorobenzoyl chloride; 2. DMAP","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)([O-])c1ccc(OC)cc1","step_weight": 0,"rationale": "Triethylamine deprotonates the carboxylic acid, generating a nucleophilic carboxylate stabilized by resonance, primed for acyl chloride attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(OC(Cl)([O-])c1c(Cl)cc(Cl)cc1Cl)c1ccc(OC)cc1","step_weight": 0,"rationale": "The carboxylate attacks the electrophilic carbonyl of 2,4,6-trichlorobenzoyl chloride, whose electron-withdrawing chlorines enhance carbonyl susceptibility."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(OC(=O)c1c(Cl)cc(Cl)cc1Cl)c1ccc(OC)cc1","step_weight": 0,"rationale": "Chloride leaves due to its good leaving group ability, forming a mixed anhydride stabilized by resonance and aromatic electron withdrawal."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(OC(=O)c1c(Cl)cc(Cl)cc1Cl)([n+]1ccc(N(C)C)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "DMAP, a strong nucleophilic catalyst, attacks the less hindered carbonyl of the mixed anhydride, forming an acylpyridinium intermediate with enhanced electrophilicity."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)([n+]1ccc(N(C)C)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "The trichlorobenzoate anion departs, stabilized by resonance and inductive effects from chlorines, leaving the reactive acylpyridinium species."},{"step": 6,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])([OH+]c1ccc(Br)cc1)([n+]1ccc(N(C)C)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "The alcohol nucleophile attacks the activated acylpyridinium carbonyl, favored by reduced steric hindrance and strong electrophilicity."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(Oc1ccc(Br)cc1)([n+]1ccc(N(C)C)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Proton transfer occurs to neutralize the alkoxide and regenerate the DMAP leaving group, driven by acid-base equilibrium."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(Oc1ccc(Br)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "DMAP departs as a stable neutral species, yielding the ester product through collapse of the tetrahedral intermediate."}],"description": "In the Yamaguchi esterification, the carboxylate is activated by 2,4,6-trichlorobenzoyl chloride in the presence of base, forming a mixed anhydride. DMAP catalyzes nucleophilic attack by the alcohol, facilitating ester formation via enhanced electrophilicity and good leaving group expulsion under mild conditions."}
{"reaction_id": "NR-149_1-CCCC(C)C_2-C(C)(C)C","name": "Myers Asymmetric Alkylation","level": "medium","reactants_smiles": ["CCCC(C)CCC(=O)N(C)C(C)C(O)c1ccccc1","BrC(C)(C)C"],"products_smiles": ["C(C)(C)CC(CCCC(C)C)C(=O)N(C)C(C)C(O)c1ccccc1"],"conditions": "LDA","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)C/C=C(\\[O-])/N(C)C(C)C([O-])c1ccccc1","rationale": "LDA, a strong non-nucleophilic base, selectively deprotonates the α-position due to acidity enhanced by resonance stabilization of the enolate through the carbonyl and auxiliary."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C)(C)CC(CCCC(C)C)C(=O)N(C)C(C)C([O-])c1ccccc1","rationale": "The enolate acts as a strong nucleophile, attacking the electrophilic carbon of the alkyl bromide in an SN2 process, favored by the good leaving ability of bromide and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(CCCC(C)C)C(=O)N(C)C(C)C(O)c1ccccc1","rationale": "The alkoxide intermediate is protonated under workup conditions, restoring the neutral alcohol and completing the formation of the alkylated product."}],"description": "Under strong base (LDA), the Myers auxiliary amide undergoes deprotonation to form a stabilized enolate, which then performs an SN2 alkylation with the alkyl bromide. Final protonation yields the chiral alkylated product with high stereocontrol from the auxiliary."}
